US07335799B2
Under Ar atmosphere, to a stirred suspension of lithium borohydride (0.30 g, 95%, 13 mmol) in dichloromethane (80 mL) was added dropwise methanol (0.42 g, 13 mmol), keeping a gentle reflux while hydrogen gas was formed. The mixture was stirred for 10 min at 45° C. and a solution of 2,2,13,13-tetramethyl-7-oxo-tetradecanedioic acid 1-ethyl ester (1.57 g, 4.36 mol) in dichloromethane (10 mL) was added dropwise at such a rate as to maintain a gentle reflux. The reaction mixture was heated at reflux for 24 h, then cooled to room temperature and carefully hydrolyzed with 2 N hydrochloric acid (50 mL) and saturated ammonium chloride solution (120 mL). The aqueous layer was extracted with dichloromethane (4×50 mL). The combined organic layers were washed with water (100 mL) and dried over anhydrous magnesium sulfate. The reaction mixture was concentrated to yield the crude product as a yellow oil (1.28 g). Purification by column chromatography on silica gel eluting with hexanes/ethyl acetate (4:1, then 3:1) followed by recrystallization from dichloromethane gave pure 2,2,13,13-tetramethyltetradecane-1,7,14-triol (0.86 g, 65%) as white needles. M.p.: 79-80° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 3.57 (br. s, 1H), 3.29 (s, 4H), 2.17 (br. s, 3H), 1.46-1.40 (m, 4H), 1.33-1.24 (m, 12H), 0.85 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 71.8, 71.7, 71.5, 38.7, 37.5, 37.3, 35.1, 30.7, 26.6, 25.7, 24.2, 24.0, 23.9, 23.8. HRMS (LSIMS, gly): Calcd. for C18H39O3 (MH+): 303.2899, found: 303.2897. HPLC: 97% purity.

reactant | lithium borohydride | 13 mmol, 0.30 g | [BH4-].[Li+]
reactant | methanol | 13 mmol, 0.42 g | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | 2,2,13,13-tetramethyl-7-oxo-tetradecanedioic acid 1-ethyl ester | 4.36 mol, 1.57 g | C(C)OC(C(CCCCC(CCCCCC(C(=O)O)(C)C)=O)(C)C)=O | C20H36O5
reactant | hydrochloric acid | 2 N, 50 mL | Cl | ClH
reactant | ammonium chloride | 120 mL | [Cl-].[NH4+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,2,13,13-tetramethyltetradecane-1,7,14-triol | 0.86 g, 65% | CC(CO)(CCCCC(CCCCCC(CO)(C)C)O)C | C18H38O3
